US04251438
1,4-Bis(phenylmethyl)piperazinone, hydrochloride (XIII)
A mixture of N,N'-dibenzylethylenediamine (24.0 g., 0.1 mole), ethyl chloroacetate (V, 24.51 g., 0.2 mole), anhydrous sodium carbonate (10 g., 0.094 mole) in ethanol (250 ml.) is heated under reflux for 20 hours. The ethanol is removed under reduced pressure and the residue is partitioned between chloroform and water. Evaporation of the chloroform gives an oil which is dissolved in isopropanol (200 ml.) and acidified with ethereal hydrogen chloride. The precipitate of 1,4-bis(phenylmethyl)piperazinone hydrochloride is filtered off and recrystallized from isopropanol, m.p. 209°-212°.

reactant | N,N'-dibenzylethylenediamine | 0.1 mole, 24.0 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | ethyl chloroacetate | 0.2 mole, 24.51 g | ClCC(=O)OCC | C4H7ClO2
reactant | sodium carbonate | 0.094 mole, 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1,4-Bis(phenylmethyl)piperazinone, hydrochloride | Cl.C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C18H20N2O.ClH/c21-18-15-19(13-16-7-3-1-4-8-16)11-12-20(18)14-17-9-5-2-6-10-17;/h1-10H,11-15H2;1H
